US04988686
1-allyl 3-diphenylmethoxy-6-hydroxymethyl-4-pyridone
To a suspension of 1.542 g of 6-hydroxymethyl-3-(p- methoxybenzyl)oxy-4-pyridone in methanol is 5.710 g of allylamine at room temperature, and the mixture is stirred for 14 hours. After condensing at reduced pressure, 20 ml of ethyl acetate is added to the residue to perform crystallization. After the mixture is left standing at 4° C. for 4 hours, the crystal is collected by filtration, washed with a small amount of ethyl acetate and dried under reduced pressure to give 1.050 g of the title compound.

reactant | 6-hydroxymethyl-3-(p- methoxybenzyl)oxy-4-pyridone | 1.542 g | OCC1=CC(C(C=N1)OCC1=CC=C(C=C1)OC)=O | C14H15NO4
reactant | allylamine | 5.710 g | C(C=C)N | C3H7N
reactant | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | methanol | CO | CH4O
product | 1-allyl 3-diphenylmethoxy-6-hydroxymethyl-4-pyridone | 1.050 g | C(C=C)N1C=C(C(C=C1CO)=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C22H21NO3
